US09422281B2
A 40 mL reaction vial was charged with (S)-tert-butyl 3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.3 g, 1.21 mmol) and 1,2-dichloroethane (10 mL). 4-Dimethylaminopyridine (DMAP) (0.030 g, 0.242 mmol) was added as a solid followed by the addition of acetic anhydride (0.456 ml, 4.83 mmol). The reaction mixture was heated to 50° C. for 16 h on a heater shaker. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in ethyl acetate (20 mL) and washed with saturated aqueous sodium bicarbonate (20 mL). The organic layer was removed and set aside. The aqueous layer was washed with another portion of ethyl acetate (20 mL) and the organic layers were combined and concentrated under reduced pressure to yield (S)-tert-butyl 4-acetyl-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate (0.35 g) which was used without further purification. MS (ESI, Na+ ion) m/z 313 [M+1]+.

reactant | (S)-tert-butyl 3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 1.21 mmol, 0.3 g | C[C@H]1CN(C2=CC=CC=C2N1)C(=O)OC(C)(C)C | C14H20N2O2
reactant | acetic anhydride | 4.83 mmol, 0.456 ml | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-Dimethylaminopyridine | 0.242 mmol, 0.030 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | 1,2-dichloroethane | 10 mL | ClCCCl | C2H4Cl2
product | (S)-tert-butyl 4-acetyl-3-methyl-3,4-dihydroquinoxaline-1(2H)-carboxylate | 0.35 g | C(C)(=O)N1[C@H](CN(C2=CC=CC=C12)C(=O)OC(C)(C)C)C | C16H22N2O3
